US07935707B2
C) 5-Bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carbaldehyde
A solution of 2.80 g (8.0 mmol) of [5-bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazol-4-yl]-methanol in 120 ml of EtOAc was treated in small portions with 4.85 g (55.8 mmol) of manganese(IV) oxide; the reaction mixture was stirred at RT for 2 hours and at 50° C. for 5 hours, it was then cooled down to RT and filtered (with the aid of dicalite) and the solvents were evaporated to give 2.813 g (quant.) of the title compound as colorless oil. MS: 349.0 (MH+, 1Br).

reactant | [5-bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazol-4-yl]-methanol | 8.0 mmol, 2.80 g | BrC1=C(N(C(=N1)C1=CC(=CC=C1)OC(F)(F)F)C)CO | C12H10BrF3N2O2
solvent | EtOAc | 120 ml | CCOC(=O)C | C4H8O2
catalyst | manganese(IV) oxide | 55.8 mmol, 4.85 g | [O-2].[Mn+4].[O-2]
product | 5-Bromo-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carbaldehyde | BrC1=C(N(C(=N1)C1=CC(=CC=C1)OC(F)(F)F)C)C=O | C12H8BrF3N2O2
